US04649139
A solution of 2,3-dichlorobenzoyl cyanide (32 g, 0.16M) in dimethylsulphoxide (80 ml) was added dropwise to a stirred suspension of aminoguanidine bicarbonate (81.67 g. 0.6M) which had been treated with 8N aqueous nitric acid (400 ml) at a temperature of ca 25° C. The mixture was stirred for 3 hours, then left to stand at room temperature for 7 days. The cooled mixture was stirred and basified with 0.880 aqueous ammonia (400 ml) at 20° C., then stirred with ice cooling for 30 minutes. The resulting solid was separated by filtration, washed thoroughly with water and finally dried in vacuo. The above solid was added to a 10% w/v solution of potassium hydroxide pellets in methanol (400 ml) and the solution heated to reflux for 11/2 hours. When cool the solution was evaporated down in vacuo, treated with ice water (800 ml) then stirred for 30 minutes and filtered. The residue was dried and recrystallised from isopropanol to give 3,5-diamino-(2,3-dichlorophenyl)-1,2,4-triazine Yield 6.8 g (15.6%), m.p. 216°-218° C. (uncorrected).

reactant | 2,3-dichlorobenzoyl cyanide | 0.16M, 32 g | ClC1=C(C(=O)C#N)C=CC=C1Cl | C8H3Cl2NO
reactant | aminoguanidine bicarbonate | 0.6M, 81.67 g | C(O)(O)=O.NNC(=N)N
reactant | nitric acid | 8N, 400 ml | [N+](=O)(O)[O-] | HNO3
reactant | ammonia | 400 ml | N | H3N
solvent | dimethylsulphoxide | 80 ml | CS(=O)C | C2H6OS
product | 3,5-diamino-(2,3-dichlorophenyl)-1,2,4-triazine | Yield 6.8 g, 15.6% | NC=1N=NC(=C(N1)N)C1=C(C(=CC=C1)Cl)Cl | C9H7Cl2N5
